US05866568
Sodium methoxide (0.115 g) was added to a solution of 2-[4-(N,N-dimethylamino)phenyl]-N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (0.212 g) in methanol (10 ml) and the mixture was stirred and heated under reflux for 90 minutes. The reaction mixture was cooled, poured into saturated aqueous ammonium chloride solution (30 ml) and extracted with ethyl acetate (3×30 ml). The organic extracts were combined and dried (MgSO4). Volatile material was removed by evaporation and the residue was triturated with ether to give 2-[4-(N,N-dimethylamino)phenyl] -N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (104 mg) as a solid, m.p. 183°-184.5° C.; 1H NMR (d6 -DMSO): 2.2 (s, 3 H), 2.95 (s, 6 H), 3.8 (s, 3 H), 6.7 (br s, 2 H), 7.3-7.5 (m, 4 H), 8.37 (dd, 1 H), 8.7 (dd, 1 H), 10.1 (br s, 1 H); mass spectrum (+ve FAB, DMSO/methanol/NBA): 400 (M+H)+.

reactant | Sodium methoxide | 0.115 g | C[O-].[Na+]
reactant | 2-[4-(N,N-dimethylamino)phenyl]-N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 0.212 g | CN(C)C1=CC=C(C=C1)C1=NC=CC=C1S(=O)(=O)N(C1=NC=C(N=C1OC)C)C(=O)OCC(C)C | C24H29N5O5S
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-[4-(N,N-dimethylamino)phenyl] -N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 104 mg | CN(C)C1=CC=C(C=C1)C1=NC=CC=C1S(=O)(=O)NC1=NC=C(N=C1OC)C | C19H21N5O3S
